US06541638B2
Z-N-Me-Asp(OtBu)—OH DCHA salt (1:1) and 4-Isopropylaniline according to 1.2., followed by deprotection (6.1.) and treatment with HCl/MeOH to give (S)-N-(4-Isopropyl-phenyl)-3-methylamino-succinamic acid tert-butyl ester-HCl, MS: 321 (MH+).

reactant | Z-N-Me-Asp(OtBu)—OH DCHA | CC(C)(C)OC(=O)C[C@@H](C(=O)O)N(C)C(=O)OCC1=CC=CC=C1.C1CCC(CC1)NC2CCCCC2
reactant | 4-Isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | HCl MeOH | Cl.CO
product | (S)-N-(4-Isopropyl-phenyl)-3-methylamino-succinamic acid tert-butyl ester-HCl | Cl.C(C)(C)(C)OC(C[C@@H](C(=O)NC1=CC=C(C=C1)C(C)C)NC)=O | InChI=1S/C18H28N2O3.ClH/c1-12(2)13-7-9-14(10-8-13)20-17(22)15(19-6)11-16(21)23-18(3,4)5;/h7-10,12,15,19H,11H2,1-6H3,(H,20,22);1H/t15-;/m0./s1
